Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
face weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ woman with a history of ADD who
presents with 1.5 weeks of left dental pain, subjective fevers, 
2
days of right facial weakness and abnormal taste. 

She first developed pain in one of her left maxillary molars
___ from back) last ___. Over the subsequent week the
pain worsened. She once measured a temperature ___ F, and on
other nights this week noted night sweats. She went to the 
health
clinic at ___ 2 days ago and was given a 
prescription
for Augmentin to treat sinusitis. She does also complain of
left-sided congestion, but says her tooth pain was her primary
complaint and focused very clearly on a single tooth. 

That evening she noticed right-sided facial weakness, and has
since had ever-increasing difficulty drinking fluids due to this 

weakness. She endorses abnormal taste, but denies any changes in
her hearing including hyperacusis. She still complains of
worsening tooth pain as well as night sweats. She also complains
of left frontal headache. 

She does not have any history of cold sores. She denies any
photo/phonophobia, neck stiffness, confusion, or malaise. 

ROS:
+ Right facial weakness
+ Left frontal headache
+ Left dental pain
+ Night sweats

- No recent loss of vision, blurred vision, diplopia, 
dysarthria,
lightheadedness, vertigo, tinnitus, or hearing difficulty. 
 
Past Medical History:
ADHD
 
Social History:
___
Family History:
Father with rheumatoid arthritis. 
 
Physical Exam:
Admission physical exam
-Vitals: T:96.0  BP:116/90  HR:99  RR:16  SaO2:98%

-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. No nuchal rigidity.
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate detailed
history without difficulty. Attentive. Language is fluent. There
are no paraphasic errors. Able to read without difficulty. Able
to follow both midline and appendicular commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 3mm and brisk. VFF to confrontation and no
extinction. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation decreased on left (V1-V2>V3) to light touch
and pin-prick ~75% of normal (moving from R->L, abnormal
sensation begins approximately 2cm to the left of midline).
VII: Right upper and lower facial weakness -- decreased brow
activation, slowed blink, weak eye closure, and facial droop.
Taste impaired to saccharine solution on right side of tongue. 
No
stylomastoid foramen tenderness. 

VIII: Hearing grossly intact to speech. No hyperacusis. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___      ___   5    5  5     5     
R  5    ___      ___   5    5  5     5     

-Sensory: No deficits to light touch or pinprick throughout
(except left face as above). 

-Coordination: No intention tremor. No dysmetria on FNF.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

Discharge physical exam
-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. 
-Neck: Supple. No nuchal rigidity.
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert. Able to relate detailed
history without difficulty. Attentive. Language is fluent. There
are no paraphasic errors. Able
to follow both midline and appendicular commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 3mm and brisk. VFF to confrontation 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation decreased on left (V1-V2>V3) to light touch
and pin-prick ~75% of normal 
VII: Right upper and lower facial weakness --  weak eye closure, 
and facial droop.

VIII: Hearing grossly intact to speech. No hyperacusis. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___      ___   5    5  5     5     
R  5    ___      ___   5    5  5     5     

-Sensory: No deficits to light touch or pinprick throughout
(except left face as above). 

-Coordination: No intention tremor. No dysmetria on FNF.

-Gait: Walks independently

 
Pertinent Results:
Labs
___ 12:53PM BLOOD WBC-8.0 RBC-4.21 Hgb-11.0* Hct-35.6 
MCV-85 MCH-26.1 MCHC-30.9* RDW-13.2 RDWSD-40.2 Plt ___
___ 12:53PM BLOOD CRP-106.8*

MRI brain
1. Findings compatible with sinusitis in an ostiomeatal unit 
pattern involving 
the left maxillary sinus, anterior left ethmoid air cells, and 
left frontal 
sinus.  Correlate for acuity. 
2. No definite cranial nerve abnormality.  Specifically, 
bilateral symmetric 
enhancement of the facial nerves, particularly within the 
tympanic segments, 
is likely normal given its bilaterally and is of unlikely 
clinical 
significance. 

CT sinus
1. Near complete opacification of the left maxillary sinus, as 
well as partial 
opacification of the left-sided ethmoid air cells, and mild 
mucosal thickening 
in the left frontal sinus, findings concerning for acute 
sinusitis given the 
clinical context. 
2. No evidence of facial abscess or periodontal disease. 

 
Brief Hospital Course:
___ is a ___ woman with a history of ADD who
presented with 1.5 weeks of left dental pain, night sweats, left
frontal headache, 2 days of right facial weakness and abnormal
taste. Her exam is notable for right ___ nerve palsy with
abnormal taste and upper and lower facial weakness; as well as
mild sensory deficit on the left side of her face. She underwent 
MRI brain w/wo contrast and with thin cuts which was normal. 
The etiology of her symptoms is thought to be due to Bells 
Palsy. Regarding her left mild sensory deficits, this is likely 
due to acute left sided sinusitis causing some abnormal 
sensation. At this time we do not think she has multiple cranial 
neuropathy. We will treat the bells palsy with prednisone. We 
will also continue her augmentin for the sinusitis. We did 
discuss with the patient and her mother, that should she have 
new focal neurological deficits or worsening infectious symptoms 
she would need to come back to the ED. Otherwise she will follow 
up with neurology in the next few days, as well as with her 
dentist.

=============================
Transitional issues:
-Follow up neurology 
-Follow up with dentist
-complete 7 days of prednisone 60mg daily (until ___
-complete a 10 day course (until ___
 
Medications on Admission:
n/a
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 8 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab-cap by mouth 
every twelve (12) hours Disp #*15 Tablet Refills:*0 
2.  PredniSONE 60 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth once a day Disp #*18 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right facial nerve palsy
Sinusitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___ 

___ were admitted to ___ for right sided facial weakness due 
to a condition called Bell's palsy, which is a condition in 
which the muscles on one side of your face become weak or 
paralyzed. It is usually caused by some kind of compression to 
the seventh cranial nerve, such as inflammation. This is also 
called the _x0093_facial nerve._x0094_ Bell_x0092_s palsy can happen to anyone. It 
usually resolves within weeks to months, if it is mild such as 
in your case. Your MRI brain did not show any cranial nerve 
abnormality but did show evidence of sinusitis. We are treating 
your sinusitis with augmentin. For your bell's palsy we will 
start ___ on steroids which ___ should take for 7 days. 

Please follow up with Neurology and your dentist and primary 
care physician as listed below.  

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision or double vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 - Worsening of your infectious symptoms such as fevers 
 

Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___